US06150373
A solution containing 1.35 g (2 mmol) of 4-[3-(2-tertbutyldiphenylsilyloxyethyl)phenyl]amino-5-(2,6-dichloroanilino)methyl-2-methylthiopyrimidine and 0.85 ml (6 mmol) of triethylamine in 5 ml of anhydrous toluene was added dropwise to 3.2 ml (6 mmol) of a 20% solution of phosgene in toluene dissolved in 10 ml of toluene at 0° C. under an atmosphere of nitrogen. The reaction was then heated at reflux for 6 hours then evaporated. The residue was partitioned between ethyl acetate (40 ml) and 2M hydrochloric acid (40 ml) and the ethyl acetate layer separated, washed with saturated aqueous sodium bicarbonate (40 ml ), dried over magnesium sulfate, filtered and evaporated to give 1.5 g of 1-[3-(2-t-butyldiphenylsilyloxyethyl)phenyl]-3-(2,6-dichlorophenyl)-7-methylthio-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a yellow gum. [Mass spectrum (ESI) MH+ =699].

reactant | 4-[3-(2-tertbutyldiphenylsilyloxyethyl)phenyl]amino-5-(2,6-dichloroanilino)methyl-2-methylthiopyrimidine | 2 mmol, 1.35 g | C(C)(C)(C)C(CC=1C=C(C=CC1)NC1=NC(=NC=C1CNC1=C(C=CC=C1Cl)Cl)SC)O[SiH](C1=CC=CC=C1)C1=CC=CC=C1 | C36H38Cl2N4OSSi
reactant | triethylamine | 6 mmol, 0.85 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[3-(2-t-butyldiphenylsilyloxyethyl)phenyl]-3-(2,6-dichlorophenyl)-7-methylthio-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 1.5 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1C=C(C=CC1)N1C(N(CC=2C1=NC(=NC2)SC)C2=C(C=CC=C2Cl)Cl)=O | C37H36Cl2N4O2SSi
